US07557110B2
Synthesis of 5-({trans-4-[(tert-butoxy)carbonylamino]cyclohexyl}amino)-7-[(tert-butoxy)-N-(4-ethoxyphenyl)carbonylamino]-6-methylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid.
To a stirred suspension of ethyl 5-({trans-4-[(tert-butoxy)carbonylamino]cyclohexyl}amino)-7-[(tert-butoxy)-N-(4-ethoxyphenyl)carbonylamino]-6-methylpyrazolo[1,5-a]pyrimidine-3-carboxylate (5.55 g) in 2-propanol (136 mL) was added 2 mol/L aqueous NaOH (34 mL). The resulting mixture was stirred at 50° C. for 40 h, and then at 80° C. for 4 h. The mixture was acidified (pH 4) with 1 mol/L aqueous HCl and concentrated in vacuo. The residue was suspended in water (150 mL) and slowly stirred for 1 h. The precipitate was filtered and dried in vacuo to give the title compound (5.35 g, yield 78%) as a white solid. The 1H-NMR and ESI/MS data for this compound are shown below.

reactant | ethyl 5-({trans-4-[(tert-butoxy)carbonylamino]cyclohexyl}amino)-7-[(tert-butoxy)-N-(4-ethoxyphenyl)carbonylamino]-6-methylpyrazolo[1,5-a]pyrimidine-3-carboxylate | 5.55 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)NC1=NC=2N(C(=C1C)N(C(=O)C1=CC=C(C=C1)OCC)OC(C)(C)C)N=CC2C(=O)OCC | C34H48N6O7
reactant | NaOH | 2 mol/L, 34 mL | [OH-].[Na+]
reactant | HCl | 1 mol/L | Cl | ClH
solvent | 2-propanol | 136 mL | CC(C)O | C3H8O
product | 5-({trans-4-[(tert-butoxy)carbonylamino]cyclohexyl}amino)-7-[(tert-butoxy)-N-(4-ethoxyphenyl)carbonylamino]-6-methylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 5.35 g, yield 78% | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)NC1=NC=2N(C(=C1C)N(C(=O)C1=CC=C(C=C1)OCC)OC(C)(C)C)N=CC2C(=O)O | C32H44N6O7
